US07244725B2
To a solution of 3-amino-4-(3,5-difluoro-phenyl)-1-(7-ethyl-1,2,3,4-tetrahydro-naphthalen-1-ylamino)-butan-2-ol (0.240 g, 0.64 mmol), triethylamine (0.268 mL, 1.92 mmol), and chloroform (3 mL) was added glutaric anhydride (0.073 g, 0.64 mmol) and reaction was stirred overnight at 60° C. Reaction was washed with 1N HCl, 10% NaHCO3, brine, dried over MgSO4, filtered, concentrated in vacuo to give 5-[((1S,2R)-1-(3,5-difluorobenzyl)-3-{[(1S)-7-ethyl-1,2,3,4-tetrahydronaphthalen-1-yl]amino}-2-hydroxypropyl)amino]-5-oxopentanoic acid (100 mg). Purified via prep-HPLC. 1H NMR (400 MHz, CD3OD) δ 1.26 (t, J=8 Hz, 3H), 1.73 (m, 2H), 1.89 (m, 1H), 2.01 (m, 1H), 2.17 (m, 6H), 2.68 (d, J=8 Hz, 2H), 2.93 (d, J=6 Hz, 1H), 3.02 (m, 1H), 3.30 (m, 2H), 3.88 (m, 1H), 4.09 (m, 1H), 4.57 (m, 1H), 6.79 (m, 1H), 6.88 (m, 3H), 6.93 (d, J=6 Hz, 1H), 7.20 (m, 2H), 7.31 (s, 1H); OAMS: ES+ 488.9 ES− 486.9

reactant | 3-amino-4-(3,5-difluoro-phenyl)-1-(7-ethyl-1,2,3,4-tetrahydro-naphthalen-1-ylamino)-butan-2-ol | 0.64 mmol, 0.240 g | NC(C(CNC1CCCC2=CC=C(C=C12)CC)O)CC1=CC(=CC(=C1)F)F | C22H28F2N2O
reactant | triethylamine | 1.92 mmol, 0.268 mL | C(C)N(CC)CC | C6H15N
reactant | glutaric anhydride | 0.64 mmol, 0.073 g | C1(CCCC(=O)O1)=O | C5H6O3
solvent | chloroform | 3 mL | C(Cl)(Cl)Cl | CHCl3
product | 5-[((1S,2R)-1-(3,5-difluorobenzyl)-3-{[(1S)-7-ethyl-1,2,3,4-tetrahydronaphthalen-1-yl]amino}-2-hydroxypropyl)amino]-5-oxopentanoic acid | 100 mg | FC=1C=C(C[C@@H]([C@@H](CN[C@H]2CCCC3=CC=C(C=C23)CC)O)NC(CCCC(=O)O)=O)C=C(C1)F | C27H34F2N2O4
